US07612114B2
(R)-6-{2-{[4-(2-Diethylaminoethyl)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-{2-[(4-carboxymethylbenzyl)ethylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (19 mg) and diethylamine (12 mg) according to an analogous synthetic method to Example 715 and purified by LC-MS, the title compound (2.0 mg) was obtained.

reactant | pivalic acid (R)-6-{2-[(4-carboxymethylbenzyl)ethylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 19 mg | C(=O)(O)CC1=CC=C(CCCNC2=C(C=CC(=C2)OC)[C@H]2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1 | C33H39NO5
reactant | diethylamine | 12 mg | C(C)NCC | C4H11N
product | (R)-6-{2-{[4-(2-Diethylaminoethyl)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 2.0 mg | C(C)N(CCC1=CC=C(CCCNC2=C(C=CC(=C2)OC)[C@H]2CC=3C=CC(=CC3CC2)O)C=C1)CC | C32H42N2O2
